US08044213B2
A mixture of 24.55 g (100.1 mmole) of 4-(3-trifluoromethyl-phenyl)-3H-thiazol-2-one and 75 mL (0.811 mole) of phosphorus oxychloride was heated at reflux for 3 hours. The cooled mixture was concentrated under reduced pressure. The residue was diluted with ethyl acetate and poured onto ice. The mixture was made basic by the addition of saturated sodium carbonate solution. The ethyl acetate layer was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with ethyl acetate-hexanes (gradient 10:90-20:80) to give 17.09 g of 2-chloro-4-(3-trifluoromethyl-phenyl)-thiazole as a light brown solid.

reactant | 4-(3-trifluoromethyl-phenyl)-3H-thiazol-2-one | 100.1 mmole, 24.55 g | FC(C=1C=C(C=CC1)C=1NC(SC1)=O)(F)F | C10H6F3NOS
reactant | phosphorus oxychloride | 0.811 mole, 75 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-(3-trifluoromethyl-phenyl)-thiazole | 17.09 g | ClC=1SC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C10H5ClF3NS
